US05049669
A mixture of 10-[(2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile (4.4 g), sodium carbonate (2.25 g) and iodomethane (0.9 cc in dimethylformamide (60 cc) is heated for 6 hours to a temperature in the region of 150° C. The reaction mixture is then concentrated to dryness under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. and the residue is taken up with distilled water (100 cc) and extracted with ethyl acetate (2×100 cc). The combined organic phases are extracted with N aqueous hydrochloric acid solution (2×50 cc). The combined aqueous phases are alkalinized with sodium hydroxide (d =1.33) to pH 13 and extracted with ethyl acetate (2×100 cc). The combined organic phases are washed successively with distilled water (50 cc) and with saturated aqueous sodium chloride solution (50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-[(2RS)-1-(N-Ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbonitrile (3 g) is thereby obtained in the form of an orange oil. PG,47

reactant | 10-[(2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile | 4.4 g | C(C)NCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C18H19N3S
reactant | sodium carbonate | 2.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodomethane | IC | CH3I
solvent | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | 10-[(2RS)-1-(N-Ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbonitrile | 3 g | C(C)N(C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C19H21N3S
